US05189054
Dissolve 3-[(phenacyl)methylamino]-2-carbethoxy-6-trifluoromethyl-1-(tert-butyloxycarbonyl)indole (200 mg, 0.407 mmol) from above in methylene chloride. Add trifluoracetic acid and stir overnight at room temperture. Concentrate the reaction in vacuo, dilute with ethyl acetate and rinse with saturated sodium bicarbonate, dry over magnesium sulfate, filter and concentrate in vacuo to yield 3-[(phenacyl)methylamino]-2-carbethoxy-6-trifluoromethylindole as a foam (154 mg, 97%).

reactant | 3-[(phenacyl)methylamino]-2-carbethoxy-6-trifluoromethyl-1-(tert-butyloxycarbonyl)indole | 0.407 mmol, 200 mg | C(C(=O)C1=CC=CC=C1)CNC1=C(N(C2=CC(=CC=C12)C(F)(F)F)C(=O)OC(C)(C)C)C(=O)OCC | C26H27F3N2O5
reactant | trifluoracetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-[(phenacyl)methylamino]-2-carbethoxy-6-trifluoromethylindole | 154 mg, 97% | C(C(=O)C1=CC=CC=C1)CNC1=C(NC2=CC(=CC=C12)C(F)(F)F)C(=O)OCC | C21H19F3N2O3
